US07615562B2
Step B: (E)-4-[5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-ol
Solid sodium borohydride (25 mg, 0.66 mmol) was added to a solution of (E)-4-[5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-one (120 mg, 0.43 mmol) in 8 ml of MeOH. After stirring for 3 hours, the MeOH was evaporated and the residue was partitioned between water and EtOAc. The aqueous layer was separated and extracted once more with EtOAc. The combined organic extracts were washed with brine, dried over sodium sulfate and evaporated to give a yellow solid which was used without further purification. Yield: 112 mg (93%).

reactant | sodium borohydride | 0.66 mmol, 25 mg | [BH4-].[Na+]
reactant | (E)-4-[5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-one | 0.43 mmol, 120 mg | CSC1=NC=CC(=N1)C1=CC=C(S1)/C=C/C(C)=O | C13H12N2OS2
solvent | MeOH | 8 ml | CO | CH4O
product | (E)-4-[5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-ol | CSC1=NC=CC(=N1)C1=CC=C(S1)/C=C/C(C)O | C13H14N2OS2
